US06992087B2
Preparation of 2-(2,4-dichlorophenyl)-3,6-diethyl-5-(1,2,3,4-tetrahydronaphthalen-1-yloxy)pyrazine
A solution of 1,2,3,4-tetrahydronaphthalen-1-ol (248 mg) in DMSO (3 ml) was added to NaH (100 mg) suspended in DMSO (4 ml). The reaction mixture was stirred at r.t. for 1 hour and heated at 75° C. for 1 hour. 2-bromo-5-(2,4-dichlorophenyl)-3,6-diethylpyrazine in DMSO (3 ml) was added. After 24 h, the rxn mixture was diluted with 30 ml of H2O, extracted with CH2Cl2, washed with NaHCO3, brine, dried (MgSO4), filtered and concentrated. Flash chromatography (1:50 EtOAC:Heptane) gave the title compound: 1H NMR (CDCl3) δ 1.23, 1.95, 2.13, 2.20, 2.58, 2.83, 2.96, 6.46, 7.36; HRMS (ESI+) calcd for C24H24Cl2N2O1 (M+H)+ 427.1344, found 427.1359.

reactant | 1,2,3,4-tetrahydronaphthalen-1-ol | 248 mg | C1(CCCC2=CC=CC=C12)O | C10H12O
reactant | NaH | 100 mg | [H-].[Na+]
reactant | 2-bromo-5-(2,4-dichlorophenyl)-3,6-diethylpyrazine | BrC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)Cl)Cl)CC | C14H13BrCl2N2
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
solvent | DMSO | 4 ml | CS(=O)C | C2H6OS
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
solvent | H2O | 30 ml | O | H2O
product | 2-(2,4-dichlorophenyl)-3,6-diethyl-5-(1,2,3,4-tetrahydronaphthalen-1-yloxy)pyrazine | ClC1=C(C=CC(=C1)Cl)C1=NC(=C(N=C1CC)OC1CCCC2=CC=CC=C12)CC | C24H24Cl2N2O
